US05159114
4-Bromothiophenol (100 g) was added dropwise to a solution of sodium methoxide prepared from sodium (13.4 g) and dry methanol (400 ml). The solution was stirred for 1 hour and then a mixture of 1-bromodecane (128.6 g) and dry methanol (150 ml) was added over 10 minutes. The oily suspension was refluxed for 4 hours and was then concentrated by distilling off about 300 ml of solvent. Water (750 ml) was added and the mixture was stirred vigorously while cooling. The solid product was collected, washed with water and then crystallized from ethanol to give 4-(decylthio)bromobenzene (159.5 g), m.p. 37°-39° C. [Elemental analysis: C,58.0; H,7.7; Br,24.5; S,9.7%; calculated: C,58.36; H,7.60; Br,24.31; S,9.73%].

reactant | 4-Bromothiophenol | 100 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 13.4 g | [Na] | Na
reactant | 1-bromodecane | 128.6 g | BrCCCCCCCCCC | C10H21Br
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 400 ml | CO | CH4O
product | 4-(decylthio)bromobenzene | 159.5 g | C(CCCCCCCCC)SC1=CC=C(C=C1)Br | C16H25BrS
